### PR TITLE
refactor: redefine `eLpNorm` at `p = 0`

### PR DESCRIPTION
**Pull request by felixpernegger**
For Zulip discussion see https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/eLpNorm.20junk.20value/with/576356442. In partuclar this change is suggestion 2 in [#mathlib4 > eLpNorm junk value @ 💬](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/eLpNorm.20junk.20value/near/576340531)

This redefined [MeasureTheory.eLpNorm](https://leanprover-community.github.io/mathlib4_docs/Mathlib/MeasureTheory/Function/LpSeminorm/Defs.html#MeasureTheory.eLpNorm) at `p = 0`. Previously it was always `0` but now it is the measure of the support of the function (technical detail: In order to avoid having to add additional arguments to `eLpNorm`, we define it as the measure of the support of the norm of the function, but this is almost always the same)

The motivation for this comes from the counting measure, in particular this then unifies with https://leanprover-community.github.io/mathlib4_docs/Mathlib/Analysis/Normed/Lp/lpSpace.html#Mem%E2%84%93p. In any case, it is "closer" to the actual mathematical definition

Unfortunately, since `eLpNorm` is widely used, the diff is very large and a lot of theorems break (i.e. now require `p != 0`). Oftentimes `p != 0` is still not required (sometimes with nontrivial arguments), I tried to avoid adding extra hypothesis whenever I could but I almost certainly missed some.

There now may also be places where we dont need `p != 0` as a hypothesis anymore (i.e. for `[Memℓp](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Analysis/Normed/Lp/lpSpace.html#Mem%E2%84%93p)`), but this is not included in this PR.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by felixpernegger** [comment]
-t-measure-probability

File: Mathlib/Analysis/Distribution/SchwartzSpace/Basic.lean [hunk 1]
```diff
@@ -1262,21 +1262,21 @@ variable (𝕜 F) in
...
+  rcases hμ.exists_eLpNorm_lt_top p hp with ⟨k, hk⟩
   refine ⟨k, (eLpNorm (fun x ↦ (1 + ‖x‖) ^ (-k : ℝ)) p μ).toNNReal * 2 ^ k, fun f ↦ ?_⟩
   have h_one_add (x : E) : 0 < 1 + ‖x‖ := lt_add_of_pos_of_le zero_lt_one (norm_nonneg x)
   calc eLpNorm (⇑f) p μ
   _ = eLpNorm ((fun x : E ↦ (1 + ‖x‖) ^ (-k : ℝ)) • fun x ↦ (1 + ‖x‖) ^ k • f x) p μ := by
     refine congrArg (eLpNorm · p μ) (funext fun x ↦ ?_)
     simp [(h_one_add x).ne']
   _ ≤ eLpNorm (fun x ↦ (1 + ‖x‖) ^ (-k : ℝ)) p μ * eLpNorm (fun x ↦ (1 + ‖x‖) ^ k • f x) ⊤ μ := by
-    refine eLpNorm_smul_le_eLpNorm_mul_eLpNorm_top p _ ?_
+    refine eLpNorm_smul_le_eLpNorm_mul_eLpNorm_top (hp := hp) _ ?_
```
Comment (sgouezel) [inline Mathlib/Analysis/Distribution/SchwartzSpace/Basic.lean]:
```suggestion
    refine eLpNorm_smul_le_eLpNorm_mul_eLpNorm_top _ ?_ hp
```
No need to use named arguments for a regular argument.

File: Mathlib/Analysis/Distribution/SchwartzSpace/Basic.lean [hunk 2]
```diff
@@ -1306,47 +1306,48 @@ theorem memLp_top (f : 𝓢(E, F)) (μ : Measure E := by volume_tac) : MemLp f 
...
-theorem memLp (f : 𝓢(E, F)) (p : ℝ≥0∞) (μ : Measure E := by volume_tac)
+theorem memLp (f : 𝓢(E, F)) {p : ℝ≥0∞} (hp : p ≠ 0) (μ : Measure E := by volume_tac)
     [hμ : μ.HasTemperateGrowth] : MemLp f p μ :=
-  ⟨f.continuous.aestronglyMeasurable, f.eLpNorm_lt_top p μ⟩
+  ⟨f.continuous.aestronglyMeasurable, f.eLpNorm_lt_top hp μ⟩
 
 /-- Map a Schwartz function to an `Lp` function for any `p`. -/
-def toLp (f : 𝓢(E, F)) (p : ℝ≥0∞) (μ : Measure E := by volume_tac) [hμ : μ.HasTemperateGrowth] :
-    Lp F p μ := (f.memLp p μ).toLp
+def toLp (f : 𝓢(E, F)) {p : ℝ≥0∞} (hp : p ≠ 0) (μ : Measure E := by volume_tac)
```
Comment (sgouezel) [inline Mathlib/Analysis/Distribution/SchwartzSpace/Basic.lean]: instead of having a proof argument in the definition, could you move it to as an assumption of lemmas, and use a junk value instead in the definition? I.e., if p = 0 then let f.toLp p = 0, and otherwise use the usual definition? In general this is much more practical to use.

File: Mathlib/MeasureTheory/Function/LpSeminorm/CompareExp.lean [hunk 3]
```diff
@@ -164,19 +163,19 @@ variable {α E F G : Type*} {m : MeasurableSpace α}
 
 open NNReal
 
-theorem eLpNorm_le_eLpNorm_top_mul_eLpNorm (p : ℝ≥0∞) (f : α → E) {g : α → F}
+theorem eLpNorm_le_eLpNorm_top_mul_eLpNorm {p : ℝ≥0∞} (f : α → E) {g : α → F}
     (hg : AEStronglyMeasurable g μ) (b : E → F → G) (c : ℝ≥0)
-    (h : ∀ᵐ x ∂μ, ‖b (f x) (g x)‖₊ ≤ c * ‖f x‖₊ * ‖g x‖₊) :
+    (h : ∀ᵐ x ∂μ, ‖b (f x) (g x)‖₊ ≤ c * ‖f x‖₊ * ‖g x‖₊) (hp : p ≠ 0) :
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Function/LpSeminorm/CompareExp.lean]: keep `hp` as the first assumption in the lemma, as in the other lemmas?

File: Mathlib/MeasureTheory/Function/LpSeminorm/CompareExp.lean [hunk 4]
```diff
@@ -280,14 +283,15 @@ variable {𝕜 α E F : Type*} {m : MeasurableSpace α} {μ : Measure α} [Norme
   [NormedAddCommGroup E] [MulActionWithZero 𝕜 E] [IsBoundedSMul 𝕜 E]
   [NormedAddCommGroup F] [MulActionWithZero 𝕜 F] [IsBoundedSMul 𝕜 F] {f : α → E}
 
-theorem eLpNorm_smul_le_eLpNorm_top_mul_eLpNorm (p : ℝ≥0∞) (hf : AEStronglyMeasurable f μ)
-    (φ : α → 𝕜) : eLpNorm (φ • f) p μ ≤ eLpNorm φ ∞ μ * eLpNorm f p μ := by
-  simpa using (eLpNorm_le_eLpNorm_top_mul_eLpNorm p φ hf (· • ·) 1
+theorem eLpNorm_smul_le_eLpNorm_top_mul_eLpNorm {p : ℝ≥0∞} (hf : AEStronglyMeasurable f μ)
+    (φ : α → 𝕜) (hp : p ≠ 0) : eLpNorm (φ • f) p μ ≤ eLpNorm φ ∞ μ * eLpNorm f p μ := by
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Function/LpSeminorm/CompareExp.lean]: keep `hp` as the first parameter

File: Mathlib/MeasureTheory/Function/LpSeminorm/CompareExp.lean [hunk 5]
```diff
@@ -280,14 +283,15 @@ variable {𝕜 α E F : Type*} {m : MeasurableSpace α} {μ : Measure α} [Norme
...
+  simpa using (eLpNorm_le_eLpNorm_top_mul_eLpNorm (hp := hp) φ hf (· • ·) 1
     (.of_forall fun _ => by simpa using nnnorm_smul_le _ _) :)
 
-theorem eLpNorm_smul_le_eLpNorm_mul_eLpNorm_top (p : ℝ≥0∞) (f : α → E) {φ : α → 𝕜}
-    (hφ : AEStronglyMeasurable φ μ) : eLpNorm (φ • f) p μ ≤ eLpNorm φ p μ * eLpNorm f ∞ μ := by
-  simpa using (eLpNorm_le_eLpNorm_mul_eLpNorm_top p hφ f (· • ·) 1
+theorem eLpNorm_smul_le_eLpNorm_mul_eLpNorm_top {p : ℝ≥0∞} (f : α → E) {φ : α → 𝕜}
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Function/LpSeminorm/CompareExp.lean]: keep `hp` as the first parameter

File: Mathlib/MeasureTheory/Function/LpSeminorm/CompareExp.lean [hunk 6]
```diff
@@ -298,16 +302,45 @@ theorem eLpNorm'_smul_le_mul_eLpNorm' {p q r : ℝ} {f : α → E} (hf : AEStron
...
-    [hpqr : HolderTriple p q r] : MemLp (φ • f) r μ :=
-  ⟨hφ.1.smul hf.1,
-    eLpNorm_smul_le_mul_eLpNorm hf.1 hφ.1 |>.trans_lt <|
+theorem MemLp.smul {p q r : ℝ≥0∞} {f : α → E} {φ : α → 𝕜}
+    (hf : MemLp f q μ) (hφ : MemLp φ p μ) [hpqr : HolderTriple p q r] : MemLp (φ • f) r μ := by
+  have hpqr' := hpqr.inv_add_inv_eq_inv
+  rcases eq_or_ne p 0 with rfl|hp
+  · have hr : r = 0 := by
+      simp only [ENNReal.inv_zero, top_add] at hpqr'
+      exact inv_eq_top.mp hpqr'.symm
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Function/LpSeminorm/CompareExp.lean]: instead of this, could you register two lemmas saying that, if HolderTriple 0 q r then r = 0, and similarly for q, and use it here and wherever it's useful?

File: Mathlib/MeasureTheory/Function/LpSeminorm/CompareExp.lean [hunk 7]
```diff
@@ -298,16 +302,45 @@ theorem eLpNorm'_smul_le_mul_eLpNorm' {p q r : ℝ} {f : α → E} (hf : AEStron
...
+    rw [hr]
+    simp only [memLp_zero_iff_aestronglyMeasurable_and_volume_support_lt_top,
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Function/LpSeminorm/CompareExp.lean]: instead of doing the proof here, could you extract a lemma saying that the L^0 norm of phi . f is bounded by the L^0 norm of phi (and another one with the L^0 norm of f)?

File: Mathlib/MeasureTheory/Function/LpSeminorm/Indicator.lean [hunk 8]
```diff
@@ -35,10 +35,14 @@ variable {ε : Type*} [TopologicalSpace ε] [ESeminormedAddMonoid ε]
...
   {ε' : Type*} [TopologicalSpace ε'] [ContinuousENorm ε']
 
-lemma eLpNorm_indicator_eq_eLpNorm_restrict {f : α → ε} {s : Set α} (hs : MeasurableSet s) :
+lemma eLpNorm_indicator_eq_eLpNorm_restrict {ε : Type*} [TopologicalSpace ε]
+    [ESeminormedAddMonoid ε] {f : α → ε} {s : Set α} (hs : MeasurableSet s) :
     eLpNorm (s.indicator f) p μ = eLpNorm f p (μ.restrict s) := by
   by_cases hp_zero : p = 0
   · simp only [hp_zero, eLpNorm_exponent_zero]
+    rw [MeasureTheory.Measure.restrict_apply' hs]
+    congr 1; ext
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Function/LpSeminorm/Indicator.lean]:
```suggestion
    congr 1 with x
```

File: Mathlib/MeasureTheory/Function/LpSeminorm/Indicator.lean [hunk 9]
```diff
@@ -159,9 +161,25 @@ lemma eLpNorm_top_piecewise (f g : α → ε) [DecidablePred (· ∈ s)] (hs : M
 protected lemma MemLp.piecewise {f : α → ε} [DecidablePred (· ∈ s)] {g} (hs : MeasurableSet s)
     (hf : MemLp f p (μ.restrict s)) (hg : MemLp g p (μ.restrict sᶜ)) :
     MemLp (s.piecewise f g) p μ := by
-  by_cases hp_zero : p = 0
-  · simp only [hp_zero, memLp_zero_iff_aestronglyMeasurable]
-    exact AEStronglyMeasurable.piecewise hs hf.1 hg.1
+  rcases eq_or_ne p 0 with rfl|hp_zero
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Function/LpSeminorm/Indicator.lean]:
```suggestion
  rcases eq_or_ne p 0 with rfl | hp_zero
```

File: Mathlib/MeasureTheory/Function/LpSeminorm/Indicator.lean [hunk 10]
```diff
@@ -159,9 +161,25 @@ lemma eLpNorm_top_piecewise (f g : α → ε) [DecidablePred (· ∈ s)] (hs : M
...
+  · simp only [MemLp, eLpNorm, ↓reduceIte] at *
+    refine ⟨?_, ?_⟩
+    · exact AEStronglyMeasurable.piecewise hs hf.1 hg.1
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Function/LpSeminorm/Indicator.lean]:
```suggestion
    refine ⟨AEStronglyMeasurable.piecewise hs hf.1 hg.1, ?_⟩
```
When one branch has a very short proof, you can put it in the `refine`. In this way, you can unindent the calc block below.

File: Mathlib/MeasureTheory/Function/LpSeminorm/Indicator.lean [hunk 11]
```diff
@@ -196,34 +212,58 @@ theorem eLpNorm_indicator_sub_le_of_dist_bdd {β : Type*} [NormedAddCommGroup β
...
-  exact eLpNorm_indicator_sub_le_of_dist_bdd μ hp hs hc (fun x _ ↦ h x)
+  exact eLpNorm_indicator_sub_le_of_dist_bdd μ hp hp' hs hc (fun x _ ↦ h x)
 
 end Indicator
 
 section UnifTight
 
+theorem support_congr_of_ae_eq {α β : Type*} [MeasurableSpace α] [Zero β] {μ : Measure α}
+    {f g : α → β} (h : f =ᶠ[ae μ] g) :
+    Function.support f =ᶠ[ae μ] Function.support g := by
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Function/LpSeminorm/Indicator.lean]:
```suggestion
    {f g : α → β} (h : f =ᵐ[μ] g) :
    Function.support f =ᵐ[μ] Function.support g := by
```
Also, could you find a better home for this lemma?

File: Mathlib/MeasureTheory/Function/LpSeminorm/Indicator.lean [hunk 12]
```diff
@@ -196,34 +212,58 @@ theorem eLpNorm_indicator_sub_le_of_dist_bdd {β : Type*} [NormedAddCommGroup β
...
-  · obtain ⟨s, hsm, hs, hε⟩ :
-        ∃ s, MeasurableSet s ∧ μ s < ∞ ∧ ∫⁻ a in sᶜ, (‖f a‖ₑ) ^ p.toReal ∂μ < ε ^ p.toReal := by
-      apply exists_setLIntegral_compl_lt
-      · exact ((eLpNorm_lt_top_iff_lintegral_rpow_enorm_lt_top hp₀ hp_top).1 hf.2).ne
-      · simp [*]
-    refine ⟨s, hsm, hs, ?_⟩
-    rwa [eLpNorm_indicator_eq_eLpNorm_restrict hsm.compl,
-      eLpNorm_eq_lintegral_rpow_enorm_toReal hp₀ hp_top, one_div, ENNReal.rpow_inv_lt_iff]
-    simp [ENNReal.toReal_pos, *]
+  rcases eq_or_ne p 0 with rfl|hp₀
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Function/LpSeminorm/Indicator.lean]:
```suggestion
  rcases eq_or_ne p 0 with rfl | hp₀
```

File: Mathlib/MeasureTheory/Function/LpSeminorm/Indicator.lean [hunk 13]
```diff
@@ -196,34 +212,58 @@ theorem eLpNorm_indicator_sub_le_of_dist_bdd {β : Type*} [NormedAddCommGroup β
...
+      simp_rw [Function.support_enorm]
+      exact measure_congr <| support_congr_of_ae_eq hf.1.ae_eq_mk.symm
+    · apply lt_of_eq_of_lt ?_ <| Ne.pos hε
+      refine (Measure.measure_support_eq_zero_iff μ).mpr ?_
+      apply Filter.mem_of_superset hf.1.ae_eq_mk
+      intro
+      simp only [Set.mem_setOf_eq, Pi.zero_apply, enorm_eq_zero, Set.indicator_apply_eq_zero,
+        Set.mem_compl_iff, Function.mem_support, ne_eq, not_not]
+      intro hx fx
+      rw [hx, fx]
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Function/LpSeminorm/Indicator.lean]:
```suggestion
      filter_upwards [hf.1.ae_eq_mk] with x
      simp only [Pi.zero_apply, enorm_eq_zero, Set.indicator_apply_eq_zero,
        Set.mem_compl_iff, Function.mem_support, ne_eq, not_not]
      grind
```
Do you know the `filter_upwards` tactic? It's a readable version of `Filter.mem_of_superset`. Also, don't hesitate to use `grind` when the goal is trivial.

File: Mathlib/MeasureTheory/Function/LpSeminorm/LpNorm.lean [hunk 14]
```diff
@@ -131,42 +130,42 @@ variable {𝕜 : Type*} [NormedField 𝕜]
     lpNorm (1 : α → 𝕜) p μ = μ.real .univ ^ (p.toReal⁻¹ : ℝ) := by
   simp [Pi.one_def, lpNorm_const' hp₀ hp, Measure.real, ENNReal.toReal_rpow]
 
-lemma lpNorm_const_smul [Module 𝕜 E] [NormSMulClass 𝕜 E] (c : 𝕜) (f : α → E) (μ : Measure α) :
-    lpNorm (c • f) p μ = ‖c‖₊ * lpNorm f p μ := by
+lemma lpNorm_const_smul [Module 𝕜 E] [NormSMulClass 𝕜 E] (c : 𝕜) (f : α → E) (μ : Measure α)
+    (hp : p ≠ 0) : lpNorm (c • f) p μ = ‖c‖₊ * lpNorm f p μ := by
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Function/LpSeminorm/LpNorm.lean]: move `hp` to be the first assumption?

File: Mathlib/MeasureTheory/Function/LpSeminorm/LpNorm.lean [hunk 15]
```diff
@@ -131,42 +130,42 @@ variable {𝕜 : Type*} [NormedField 𝕜]
...
-  · simp [lpNorm, eLpNorm_const_smul, hf, hf.const_smul]
+  · simp [lpNorm, eLpNorm_const_smul (hp := hp), hf, hf.const_smul]
   obtain rfl | hc := eq_or_ne c 0
   · simp
   rw [lpNorm_of_not_aestronglyMeasurable hf, lpNorm_of_not_aestronglyMeasurable fun h ↦ hf <| by
     simpa [hc] using h.const_smul c⁻¹]
   simp
 
-lemma lpNorm_nsmul [NormedSpace ℝ E] (n : ℕ) (f : α → E) (μ : Measure α) :
+lemma lpNorm_nsmul [NormedSpace ℝ E] (n : ℕ) (f : α → E) (μ : Measure α) (hp : p ≠ 0) :
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Function/LpSeminorm/LpNorm.lean]: move hp to be the first assumption?

File: Mathlib/MeasureTheory/Function/LpSeminorm/LpNorm.lean [hunk 16]
```diff
@@ -131,42 +130,42 @@ variable {𝕜 : Type*} [NormedField 𝕜]
...
     lpNorm (n • f) p μ = n • lpNorm f p μ := by
-  simpa [Nat.cast_smul_eq_nsmul] using lpNorm_const_smul (n : ℝ) f μ (p := p)
+  simpa [Nat.cast_smul_eq_nsmul] using lpNorm_const_smul (n : ℝ) f μ (p := p) hp
 
 variable [NormedSpace ℝ 𝕜]
 
-lemma lpNorm_natCast_mul (n : ℕ) (f : α → 𝕜) (p : ℝ≥0∞) (μ : Measure α) :
+lemma lpNorm_natCast_mul (n : ℕ) (f : α → 𝕜) {p : ℝ≥0∞} (μ : Measure α) (hp : p ≠ 0) :
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Function/LpSeminorm/LpNorm.lean]: move hp to be the first assumption? Same thing in all the lemmas below.

File: Mathlib/MeasureTheory/Function/LpSeminorm/Monotonicity.lean [hunk 17]
```diff
@@ -146,56 +144,93 @@ theorem eLpNorm_eq_zero_and_zero_of_ae_le_mul_neg {f : α → F} {g : α → G}
...
 theorem MemLp.of_nnnorm_le_mul {f : α → E} {g : α → F} {c : ℝ≥0} (hg : MemLp g p μ)
-    (hf : AEStronglyMeasurable f μ) (hfg : ∀ᵐ x ∂μ, ‖f x‖₊ ≤ c * ‖g x‖₊) : MemLp f p μ :=
-  ⟨hf, (eLpNorm_le_nnreal_smul_eLpNorm_of_ae_le_mul hfg p).trans_lt <|
-      ENNReal.mul_lt_top ENNReal.coe_lt_top (by finiteness)⟩
+    (hf : AEStronglyMeasurable f μ) (hfg : ∀ᵐ x ∂μ, ‖f x‖₊ ≤ c * ‖g x‖₊) : MemLp f p μ := by
+  rcases eq_or_ne p 0 with rfl|hp
+  · simp only [memLp_zero_iff_aestronglyMeasurable_and_volume_support_lt_top] at hg ⊢
+    refine ⟨hf, ?_⟩
+    calc
+      _ ≤ μ (Function.support fun x ↦ c * ‖g x‖ₑ) := by
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Function/LpSeminorm/Monotonicity.lean]: instead of doing the computation inside the lemma, could you register another lemma saying that, if `∀ᵐ x ∂μ, ‖f x‖₊ ≤ c * ‖g x‖₊`, then the L^0 norm of f is bounded by that of g? In fact, you should probably have a general lemma saying that, if for almost every x, g x = 0 -> f x = 0, then the L^0 norm of `f` is bounded by that of `g`, and then deduce many things from this lemma instead of redoing the argument by hand each time.

File: Mathlib/MeasureTheory/Function/LpSeminorm/Monotonicity.lean [hunk 18]
```diff
@@ -146,56 +144,93 @@ theorem eLpNorm_eq_zero_and_zero_of_ae_le_mul_neg {f : α → F} {g : α → G}
...
+  exact ⟨hf, (eLpNorm_le_nnreal_smul_eLpNorm_of_ae_le_mul' hfg hp).trans_lt <|
+    ENNReal.mul_lt_top ENNReal.coe_lt_top (by finiteness)⟩
 
 theorem MemLp.of_le_mul {f : α → E} {g : α → F} {c : ℝ} (hg : MemLp g p μ)
-    (hf : AEStronglyMeasurable f μ) (hfg : ∀ᵐ x ∂μ, ‖f x‖ ≤ c * ‖g x‖) : MemLp f p μ :=
-  ⟨hf,
-    (eLpNorm_le_mul_eLpNorm_of_ae_le_mul hfg p).trans_lt <|
-      ENNReal.mul_lt_top ENNReal.ofReal_lt_top (by finiteness)⟩
+    (hf : AEStronglyMeasurable f μ) (hfg : ∀ᵐ x ∂μ, ‖f x‖ ≤ c * ‖g x‖) : MemLp f p μ := by
+  rcases eq_or_ne p 0 with rfl|hp
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Function/LpSeminorm/Monotonicity.lean]:
```suggestion
  rcases eq_or_ne p 0 with rfl | hp
```
Same thing elsewhere.

**Review by sgouezel — COMMENTED** [review]
Thanks a lot for doing this, this is very much appreciated!

I haven't gone through the whole PR yet, but for now I have two main comments:
* In distributions, you should use junk values for `toLp`, to avoid having a proof argument to carry around, which is sometimes cumbersome
* You should construct some API for the L^0 norm, to discharge proofs instead of redoing the same kind of things all the time. Notably, you need a lemma saying that, if for almost every x, g x =0 -> f x = 0, then the L^0 norm of `f` is bounded by that of `g`.

Also, don't hesitate to use the `filter_upwards` tactic more, it is very handy.

File: Mathlib/MeasureTheory/Function/LpSeminorm/Basic.lean [hunk 19]
```diff
@@ -40,6 +40,7 @@ theorem MemLp.eLpNorm_ne_top [TopologicalSpace ε] {f : α → ε} (hfp : MemLp
     eLpNorm f p μ ≠ ∞ :=
   hfp.2.ne
 
+
```
Comment (felixpernegger) [inline Mathlib/MeasureTheory/Function/LpSeminorm/Basic.lean]:
```suggestion
```

File: Mathlib/MeasureTheory/Function/LpSeminorm/Basic.lean [hunk 20]
```diff
@@ -64,16 +65,29 @@ end Top
 
 section Zero
 
+
```
Comment (felixpernegger) [inline Mathlib/MeasureTheory/Function/LpSeminorm/Basic.lean:74]:
```suggestion
```

File: Mathlib/MeasureTheory/Function/LpSeminorm/Basic.lean [hunk 21]
```diff
@@ -425,6 +488,7 @@ theorem eLpNorm_indicator_sub_indicator (s t : Set α) (f : α → E) :
 theorem eLpNorm'_norm {f : α → F} : eLpNorm' (fun a => ‖f a‖) q μ = eLpNorm' f q μ := by
   simp [eLpNorm'_eq_lintegral_enorm]
 
+
```
Comment (felixpernegger) [inline Mathlib/MeasureTheory/Function/LpSeminorm/Basic.lean]:
```suggestion
```

File: Mathlib/MeasureTheory/Function/LpSeminorm/Basic.lean [hunk 22]
```diff
@@ -437,6 +501,7 @@ theorem eLpNorm_norm (f : α → F) : eLpNorm (fun x => ‖f x‖) p μ = eLpNor
 theorem eLpNorm_enorm (f : α → ε) : eLpNorm (fun x ↦ ‖f x‖ₑ) p μ = eLpNorm f p μ :=
   eLpNorm_congr_enorm_ae <| Eventually.of_forall fun _ => enorm_enorm _
 
+
```
Comment (felixpernegger) [inline Mathlib/MeasureTheory/Function/LpSeminorm/Basic.lean]:
```suggestion
```

**Comment by felixpernegger** [comment]
-awaiting-author

File: Mathlib/Analysis/Distribution/SchwartzSpace/Basic.lean [hunk 23]
```diff
@@ -1313,25 +1313,31 @@ theorem memLp_top (f : 𝓢(E, F)) (μ : Measure E := by volume_tac) : MemLp f 
   simpa using hC x
 
 /-- Schwartz functions are in `L^p` for any `p`. -/
-theorem memLp (f : 𝓢(E, F)) (p : ℝ≥0∞) (μ : Measure E := by volume_tac)
+theorem memLp (f : 𝓢(E, F)) {p : ℝ≥0∞} (hp : p ≠ 0) (μ : Measure E := by volume_tac)
     [hμ : μ.HasTemperateGrowth] : MemLp f p μ :=
-  ⟨f.continuous.aestronglyMeasurable, f.eLpNorm_lt_top p μ⟩
+  ⟨f.continuous.aestronglyMeasurable, f.eLpNorm_lt_top hp μ⟩
 
 /-- Map a Schwartz function to an `Lp` function for any `p`. -/
```
Comment (sgouezel) [inline Mathlib/Analysis/Distribution/SchwartzSpace/Basic.lean]: Mention the junk value in the docstring?

File: Mathlib/Analysis/Distribution/SchwartzSpace/Basic.lean [hunk 24]
```diff
@@ -1340,40 +1346,50 @@ theorem norm_toLp_one {f : 𝓢(E, F)} {μ : Measure E} [hμ : μ.HasTemperateGr
...
-    [μ.IsOpenPosMeasure] : Function.Injective (fun f : 𝓢(E, F) ↦ f.toLp p μ) :=
-  fun f g ↦ by simpa [toLp] using (Continuous.ae_eq_iff_eq μ f.continuous g.continuous).mp
+theorem injective_toLp {p : ℝ≥0∞} (hp : p ≠ 0) (μ : Measure E := by volume_tac)
+    [hμ : μ.HasTemperateGrowth] [μ.IsOpenPosMeasure] :
+    Function.Injective (fun f : 𝓢(E, F) ↦ f.toLp p μ) :=
+  fun f g ↦ by simpa [toLp, hp] using (Continuous.ae_eq_iff_eq μ f.continuous g.continuous).mp
 
 variable (𝕜 F) in
-theorem norm_toLp_le_seminorm (p : ℝ≥0∞) (μ : Measure E := by volume_tac)
+theorem norm_toLp_le_seminorm {p : ℝ≥0∞} (hp : p ≠ 0) (μ : Measure E := by volume_tac)
```
Comment (sgouezel) [inline Mathlib/Analysis/Distribution/SchwartzSpace/Basic.lean]: This one is true for p=0, for obvious reasons.

File: Mathlib/Analysis/Distribution/SchwartzSpace/Fourier.lean [hunk 25]
```diff
@@ -328,7 +328,8 @@ theorem integral_norm_sq_fourier (f : 𝓢(V, H)) :
     integral_inner_fourier_fourier f f
 
 theorem inner_fourier_toL2_eq (f g : 𝓢(V, H)) :
-    ⟪(𝓕 f).toLp 2, (𝓕 g).toLp 2⟫ = ⟪f.toLp 2, g.toLp 2⟫ := by simp
+    ⟪(𝓕 f).toLp 2, (𝓕 g).toLp 2⟫
+      = ⟪f.toLp 2, g.toLp 2⟫ := by simp
```
Comment (sgouezel) [inline Mathlib/Analysis/Distribution/SchwartzSpace/Fourier.lean]: revert the change?

File: Mathlib/Analysis/Distribution/TemperedDistribution.lean [hunk 26]
```diff
@@ -181,11 +183,12 @@ instance instCoeDep {p : ℝ≥0∞} [hp : Fact (1 ≤ p)] (f : Lp F p μ) :
 
 @[simp]
 theorem toTemperedDistribution_toLp_eq [SecondCountableTopology E] {p : ℝ≥0∞} [hp : Fact (1 ≤ p)]
-    (f : 𝓢(E, F)) : ((f.toLp p μ) : 𝓢'(E, F)) = f.toTemperedDistributionCLM E F μ := by
+    (f : 𝓢(E, F)) : ((f.toLp p μ) : 𝓢'(E, F))
+      = f.toTemperedDistributionCLM E F μ := by
```
Comment (sgouezel) [inline Mathlib/Analysis/Distribution/TemperedDistribution.lean]: revert?

File: Mathlib/Analysis/Fourier/LpSpace.lean [hunk 27]
```diff
@@ -95,7 +95,8 @@ theorem inner_fourier_eq (f g : Lp (α := E) F 2) : ⟪𝓕 f, 𝓕 g⟫ = ⟪f,
 end MeasureTheory.Lp
 
 @[simp]
-theorem SchwartzMap.toLp_fourier_eq (f : 𝓢(E, F)) : 𝓕 (f.toLp 2) = (𝓕 f).toLp 2 := by
+theorem SchwartzMap.toLp_fourier_eq (f : 𝓢(E, F)) :
+    𝓕 (f.toLp 2) = (𝓕 f).toLp 2 := by
```
Comment (sgouezel) [inline Mathlib/Analysis/Fourier/LpSpace.lean]: revert

File: Mathlib/Analysis/Fourier/LpSpace.lean [hunk 28]
```diff
@@ -107,7 +108,8 @@ theorem SchwartzMap.toLp_fourier_eq (f : 𝓢(E, F)) : 𝓕 (f.toLp 2) = (𝓕 f
 alias SchwartzMap.toLp_fourierTransform_eq := SchwartzMap.toLp_fourier_eq
 
 @[simp]
-theorem SchwartzMap.toLp_fourierInv_eq (f : 𝓢(E, F)) : 𝓕⁻ (f.toLp 2) = (𝓕⁻ f).toLp 2 := by
+theorem SchwartzMap.toLp_fourierInv_eq (f : 𝓢(E, F)) :
+    𝓕⁻ (f.toLp 2) = (𝓕⁻ f).toLp 2 := by
```
Comment (sgouezel) [inline Mathlib/Analysis/Fourier/LpSpace.lean]: revert

File: Mathlib/MeasureTheory/Function/LpSeminorm/Indicator.lean [hunk 29]
```diff
@@ -159,9 +161,24 @@ lemma eLpNorm_top_piecewise (f g : α → ε) [DecidablePred (· ∈ s)] (hs : M
 protected lemma MemLp.piecewise {f : α → ε} [DecidablePred (· ∈ s)] {g} (hs : MeasurableSet s)
     (hf : MemLp f p (μ.restrict s)) (hg : MemLp g p (μ.restrict sᶜ)) :
     MemLp (s.piecewise f g) p μ := by
-  by_cases hp_zero : p = 0
-  · simp only [hp_zero, memLp_zero_iff_aestronglyMeasurable]
-    exact AEStronglyMeasurable.piecewise hs hf.1 hg.1
+  rcases eq_or_ne p 0 with rfl | hp_zero
+  · simp only [MemLp, eLpNorm, ↓reduceIte] at *
+    refine ⟨AEStronglyMeasurable.piecewise hs hf.1 hg.1, ?_⟩
+    · calc
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Function/LpSeminorm/Indicator.lean:188]: Instead of hiding the computation inside the lemma, could you extract another lemma  `eLpNorm_zero_piecewise` just like we have `eLpNorm_top_piecewise`?

File: Mathlib/MeasureTheory/Function/LpSeminorm/Monotonicity.lean [hunk 30]
```diff
@@ -146,56 +144,91 @@ theorem eLpNorm_eq_zero_and_zero_of_ae_le_mul_neg {f : α → F} {g : α → G}
...
+  rcases eq_or_ne p 0 with rfl | hp
+  · refine ⟨hf, ?_⟩
+    calc
+      _ ≤ eLpNorm g 0 μ := by
+        apply eLpNorm_exponent_zero_mono_of_ae_zero
+        filter_upwards [hfg] with x hx h
+        rw [enorm_eq_nnnorm] at h
+        simp_all
+      _ < ∞ := hg.2
+  exact ⟨hf, (eLpNorm_le_nnreal_smul_eLpNorm_of_ae_le_mul hfg hp).trans_lt <|
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Function/LpSeminorm/Monotonicity.lean:185]: In a lemma like this, you can see that the relevant part for the p \ne 0 case has been extracted to a standalone lemma of independent interest as it gives a quantitative estimate. Do you think it's worth doing the same for the p=0 case?

File: Mathlib/MeasureTheory/Function/LpSeminorm/Monotonicity.lean [hunk 31]
```diff
@@ -146,56 +144,91 @@ theorem eLpNorm_eq_zero_and_zero_of_ae_le_mul_neg {f : α → F} {g : α → G}
...
+
 
 theorem MemLp.of_enorm_le_mul
     {f : α → ε} {g : α → ε'} {c : ℝ≥0} (hg : MemLp g p μ)
-    (hf : AEStronglyMeasurable f μ) (hfg : ∀ᵐ x ∂μ, ‖f x‖ₑ ≤ c * ‖g x‖ₑ) : MemLp f p μ :=
-  ⟨hf, (eLpNorm_le_nnreal_smul_eLpNorm_of_ae_le_mul' hfg p).trans_lt <|
-      ENNReal.mul_lt_top ENNReal.coe_lt_top (by finiteness)⟩
+    (hf : AEStronglyMeasurable f μ) (hfg : ∀ᵐ x ∂μ, ‖f x‖ₑ ≤ c * ‖g x‖ₑ) : MemLp f p μ := by
+  rcases eq_or_ne p 0 with rfl | hp
+  · simp only [memLp_zero_iff_aestronglyMeasurable_and_volume_support_lt_top] at hg ⊢
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Function/LpSeminorm/Monotonicity.lean]: ditto

File: Mathlib/MeasureTheory/Function/LpSeminorm/Monotonicity.lean [hunk 32]
```diff
@@ -146,56 +144,91 @@ theorem eLpNorm_eq_zero_and_zero_of_ae_le_mul_neg {f : α → F} {g : α → G}
...
+    ENNReal.mul_lt_top ENNReal.coe_lt_top (by finiteness)⟩
 
 theorem MemLp.of_le_mul {f : α → E} {g : α → F} {c : ℝ} (hg : MemLp g p μ)
-    (hf : AEStronglyMeasurable f μ) (hfg : ∀ᵐ x ∂μ, ‖f x‖ ≤ c * ‖g x‖) : MemLp f p μ :=
-  ⟨hf,
-    (eLpNorm_le_mul_eLpNorm_of_ae_le_mul hfg p).trans_lt <|
-      ENNReal.mul_lt_top ENNReal.ofReal_lt_top (by finiteness)⟩
+    (hf : AEStronglyMeasurable f μ) (hfg : ∀ᵐ x ∂μ, ‖f x‖ ≤ c * ‖g x‖) : MemLp f p μ := by
+  rcases eq_or_ne p 0 with rfl | hp
+  · simp only [memLp_zero_iff_aestronglyMeasurable_and_volume_support_lt_top] at hg ⊢
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Function/LpSeminorm/Monotonicity.lean:231]: ditto

**Comment by sgouezel** [comment]
I am afraid there is going to be an issue with this PR. As we discussed in Zulip (see for instance my message at [#mathlib4 > eLpNorm junk value @ 💬](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/eLpNorm.20junk.20value/near/599526092)), the endgoal of the refactor could be the following:
* one function `eLpHmgNorm`, the homogeneous L^p norm, which correspond to the current `eLpNorm` (except that it would be infinite for non aestronglyMeasurable functions) and satisfies `eLpHmgNorm (c • f) p μ = ‖c‖₊ • eLpHmgNorm f p μ`.
* another function `eLpNorm` which would be homogeneous only for `p ≥ 1`, but would be a seminorm for all `p`. This is the one that would be used to put the normed structure on `L^p`, to make sure we have a distance, a topology and everything.

What your refactor is doing is changing some part of the current `eLpNorm`, to replace its behavior at `p = 0` by the new one. However, I am afraid it will make part of the refactor harder, because some theorems will hold for all values of `p` for `eLpHmgNorm`, and to get these we will need to undo what you're doing in the PR.

A tentative plan to get the refactor done while not doing everything at once could be:
(1) modify the current definition of eLpNorm to also require that the functions are aestronglyMeasurable (and assign enorm = \infty otherwise)
(2) create a new definition eLpHmgNorm, which is just the same as eLpNorm, and duplicate most statements from eLpNorm to eLpHmgNorm (I know duplicating is bad, but here I don't see what else we could do)
(3) modify the definition of eLpNorm to make it no-homogeneous, by changing the behavior at p=0 and at 0<p<1. Adjust the assumptions accordingly in the statements.
Note that (3) could be split into: (3'): change at p=0; (3'') change at 0<p<1

As you can see, your PR would be perfect for (3'), but I'm not sure the library is ready for it now, because we haven't implemented (1) or (2). 

Note that this is just a tentative plan, and I'm not sure of anything here. So definitely worth discussing, here on the PR or maybe preferably on Zulip.

**Comment by felixpernegger** [comment]
> I am afraid there is going to be an issue with this PR. As we discussed in Zulip (see for instance my message at [#mathlib4 > eLpNorm junk value @ 💬](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/eLpNorm.20junk.20value/near/599526092)), the endgoal of the refactor could be the following:
> 
>     * one function `eLpHmgNorm`, the homogeneous L^p norm, which correspond to the current `eLpNorm` (except that it would be infinite for non aestronglyMeasurable functions) and satisfies `eLpHmgNorm (c • f) p μ = ‖c‖₊ • eLpHmgNorm f p μ`.
> 
>     * another function `eLpNorm` which would be homogeneous only for `p ≥ 1`, but would be a seminorm for all `p`. This is the one that would be used to put the normed structure on `L^p`, to make sure we have a distance, a topology and everything.
> 
> 
> What your refactor is doing is changing some part of the current `eLpNorm`, to replace its behavior at `p = 0` by the new one. However, I am afraid it will make part of the refactor harder, because some theorems will hold for all values of `p` for `eLpHmgNorm`, and to get these we will need to undo what you're doing in the PR.
> 
> A tentative plan to get the refactor done while not doing everything at once could be: (1) modify the current definition of eLpNorm to also require that the functions are aestronglyMeasurable (and assign enorm = \infty otherwise) (2) create a new definition eLpHmgNorm, which is just the same as eLpNorm, and duplicate most statements from eLpNorm to eLpHmgNorm (I know duplicating is bad, but here I don't see what else we could do) (3) modify the definition of eLpNorm to make it no-homogeneous, by changing the behavior at p=0 and at 0<p<1. Adjust the assumptions accordingly in the statements. Note that (3) could be split into: (3'): change at p=0; (3'') change at 0<p<1
> 
> As you can see, your PR would be perfect for (3'), but I'm not sure the library is ready for it now, because we haven't implemented (1) or (2).
> 
> Note that this is just a tentative plan, and I'm not sure of anything here. So definitely worth discussing, here on the PR or maybe preferably on Zulip.

Alright, this is quite unfortunate. In any case; hopefully we can at least use this for some p=0 proofs (or lemmas which do  not hold for p = 0) :/

**Comment by felixpernegger** [comment]
awaiting-zulip
